US06770667B1
To a suspension of 9H-carbazole-1-carboxylic acid (148 mg) and 1-hydroxybenzotriazole (130 mg) in dichloromethane (3 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (201 mg) and the mixture was stirred for 5 minutes. After adding 4-methyl-3-(pyrimidin-5-yl)aniline (130 mg) and 4-dimethylaminopyridine (128 mg), the mixture was stirred for 24 hours. The mixture was diluted with dichloromethane and washed with water and brine. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluting with 2% methanol in dichloromethane to give N-(4-methyl-3-(pyrimidin-5-yl)-phenyl)-9H-carbazole-1-carboxamide (140 mg, 52.8%).

reactant | 9H-carbazole-1-carboxylic acid | 148 mg | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
reactant | 1-hydroxybenzotriazole | 130 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 201 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-methyl-3-(pyrimidin-5-yl)aniline | 130 mg | CC1=C(C=C(N)C=C1)C=1C=NC=NC1 | C11H11N3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 128 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(4-methyl-3-(pyrimidin-5-yl)-phenyl)-9H-carbazole-1-carboxamide | 140 mg, 52.8% | CC1=C(C=C(C=C1)NC(=O)C1=CC=CC=2C3=CC=CC=C3NC12)C=1C=NC=NC1 | C24H18N4O
